US20010044538A1
2,2,6,6-Tetramethylpiperidine (1.76 ml, 10.40 mmol) was dissolved in tetrahydrofuran (39 ml) and placed under an atmosphere of nitrogen. The solution was cooled to −78° C. and n-butyllithium (3.96 ml, 9.91 mmol, 2.5 M solution of in hexanes) was added at such a rate that the internal temperature did not exceed −70° C. The reaction mixture was warmed to −10° C. for 30 min., then re-cooled to −78° C. A solution of 1-tert-butoxycarbonyl-3-(4-fluorophenyl)-2-(pyridin-4-yl)-pyrrolo[3,2-b]pyridine (0.965 g, 2.47 mmol) in tetrahydrofuran (32 ml) was cooled to −78° C. and then added via cannula at such a rate that the internal temperature did not exceed −70° C. After 1 h, dimethyldisulfide (0.29 ml, 3.22 mmol) was added and the resulting solution was stirred for an additional 1 h at −78° C. The reaction mixture was quenched with saturated ammonium chloride solution and the product was extracted into ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The crude residue was purified by flash chromatography using 20% acetone/hexanes as the eluant to give 1-tert-butoxycarbonyl-3-(4-fluorophenyl)-7-methylthio-2-(pyridin-4-yl)-pyrrolo[3,2-b]pyridine. MS: 435 (M).

reactant | 2,2,6,6-Tetramethylpiperidine | 10.40 mmol, 1.76 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | 9.91 mmol, 2.5 M, 3.96 ml | C(CCC)[Li]
reactant | 1-tert-butoxycarbonyl-3-(4-fluorophenyl)-2-(pyridin-4-yl)-pyrrolo[3,2-b]pyridine | 2.47 mmol, 0.965 g | C(C)(C)(C)OC(=O)N1C(=C(C2=NC=CC=C21)C2=CC=C(C=C2)F)C2=CC=NC=C2 | C23H20FN3O2
reactant | dimethyldisulfide | 3.22 mmol, 0.29 ml | CSSC | C2H6S2
solvent | tetrahydrofuran | 39 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
product | 1-tert-butoxycarbonyl-3-(4-fluorophenyl)-7-methylthio-2-(pyridin-4-yl)-pyrrolo[3,2-b]pyridine | C(C)(C)(C)OC(=O)N1C(=C(C2=NC=CC(=C21)SC)C2=CC=C(C=C2)F)C2=CC=NC=C2 | C24H22FN3O2S
